US06326369B1
4-[2-(1,2,3,4-Tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]phenylmethanol
To a suspension of lithium aluminum hydride (91.8 mg) in diethyl ether (10 ml) was dropwise added a solution of ethyl 4-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]benzoate (553 mg) in THF (10 ml) with cooling with ice. After stirring was continued for 15 min, 10% hydrochloric acid was added to the reaction mixture, which was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was recrystallized from hexane-ethyl acetate to yield the entitled compound (320 mg) as crystals.

reactant | lithium aluminum hydride | 91.8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]benzoate | 553 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCOC2=CC=C(C(=O)OCC)C=C2)OC)OC)OC | C26H34O7
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[2-(1,2,3,4-Tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]phenylmethanol | 320 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCOC2=CC=C(C=C2)CO)OC)OC)OC | C24H32O6
